US07884109B2
tert-Butyl 2-(1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-8-oxo-8,9-dihydropurine-7-carboxylate.
Crude 2-(1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one (16 mg) was dissolved in DCM and treated with Boc2O (150 mg) and Et3N (1 ml). The mixture was stirred for 2 hours, then diluted with DCM and washed 3 times with brine. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. Chromatography column (DCM:EtOAc:MeOH, 70:25:5) provided 17 mg of the title compound. A pure sample of the starting material, 2-(1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one, could be obtained by deprotection of the title compound with 1:1 TFA/DCM for one hour, and then treating the resulting material with 10% methanolic HCl for another hour followed by concentration in vacuo.

reactant | 2-(1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-7H-purin-8(9H)-one | 16 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C1NC(N(C1=N2)[C@@H]2CC[C@H](CC2)O)=O | C18H18N6O2
reactant | Boc2O | 150 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 1 ml | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(1H-benzo[d]imidazol-1-yl)-9-(trans-4-hydroxycyclohexyl)-8-oxo-8,9-dihydropurine-7-carboxylate | 17 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C1N(C(N(C1=N2)[C@@H]2CC[C@H](CC2)O)=O)C(=O)OC(C)(C)C | C23H26N6O4
